US07226644B2
In 730 mL of ethyl acetate, 183 g of 1-(3-hydroxy-1-heptynyl)-2,3,4-trifluorobenzene was dissolved, and 9 g of 5% palladium carbon (50% in water) was added. Then, the mixutre was stirred for 6 hours at a hydrogen pressure of 0.4 MPa. After the catalyst was removed by filtration (using cellulose), the solvent was evaporated under a reduced pressure to obtain 170 g of 1-(3-hydroxyheptyl)-2,3,4-trifluorobenzene as a light yellow solid.

reactant | 1-(3-hydroxy-1-heptynyl)-2,3,4-trifluorobenzene | 183 g | OC(C#CC1=C(C(=C(C=C1)F)F)F)CCCC | C13H13F3O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 730 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 9 g | [C].[Pd]
product | 1-(3-hydroxyheptyl)-2,3,4-trifluorobenzene | 170 g | OC(CCC1=C(C(=C(C=C1)F)F)F)CCCC | C13H17F3O
